US09428499B2
Step-a: Synthesis of 3-Nitro-N-(oxetan-3-yl)benzamide
3-Nitrobenzoic acid (0.50 g, 2.99 mmol), oxetan-3-amine (0.219 g, 2.99 mmol) were taken in pyridine (0.5 ml) and under nitrogen atmosphere and EDC.HCl (0.574 g, 2.99 mmol) was added. The reaction mixture was stirred at room temperature for 10 hrs. After completion of reaction, the reaction mixture was diluted with water (5 ml) and extracted with ethyl acetate (2×5 ml). Combined organic layer was dried over sodium sulfate and concentrated under vacuum to afford the title compound (600 mg).

reactant | 3-Nitrobenzoic acid | 2.99 mmol, 0.50 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | oxetan-3-amine | 2.99 mmol, 0.219 g | O1CC(C1)N | C3H7NO
reactant | EDC.HCl | 2.99 mmol, 0.574 g | CCN=C=NCCCN(C)C.Cl
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 5 ml | O | H2O
product | 3-Nitro-N-(oxetan-3-yl)benzamide | 600 mg | [N+](=O)([O-])C=1C=C(C(=O)NC2COC2)C=CC1 | C10H10N2O4
